US07402581B2
3-(4-Bromophenyl)-4-(methylamino)butan-1-ol (see Chem. Pharm. Bull. 46, 1998, 242; 1.77 g, 6.86 mmol) was dissolved in CH2Cl2 (100 mL) at 0° C. under argon. Imidazole (1.22 g, 17.9 mmol) was added, the mixture stirred for 10 min and then triisopropylchlorosilan (3.16 g, 16.4 mmol) was added with cooling. The mixture was stirred at room temperature for 48 h and then washed twice with water (100 mL) and brine. The solvent was removed by evaporation and the residue flash chromatographed on silica gel (CH2Cl2-Methanol-NH4OH, 15:1:0.1). There was obtained 2.17 g (75%) of {2-(4-bromophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylamine as an oil. 1H NMR (300 MHz, CDCl3): 0.9-1.1 (m, 21H), 1.6-1.9 (m, 2H), 2.4 (s, 3H), 2.7-2.8 (m, 2H), 3.0-3.1 (m, 1H), 3.4-3.6 (m, 2H), 7.1 (d, 2H), 7.4 (d, 2H).

reactant | 3-(4-Bromophenyl)-4-(methylamino)butan-1-ol | 6.86 mmol, 1.77 g | BrC1=CC=C(C=C1)C(CCO)CNC | C11H16BrNO
reactant | Imidazole | 17.9 mmol, 1.22 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylchlorosilan | 16.4 mmol, 3.16 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | {2-(4-bromophenyl)-4-[(triisopropylsilyl)oxy]butyl}methylamine | 2.17 g, 75% | BrC1=CC=C(C=C1)C(CNC)CCO[Si](C(C)C)(C(C)C)C(C)C | C20H36BrNOSi
